US04348399
A solution of 2-(4-hexadecylaminophenyl)acetamide in benzene is cooled to 10° and a stream of dry hydrogen chloride gas is bubbled in. After one-half hour an excess of thionyl chloride is added and the reaction is heated to reflux for five hours. The reaction is then cooled in ice and poured into a slurry of ice and water. Cold 50% aqueous potassium hydroxide is slowly added until the mixture is basic to litmus. The layers are then separated and the aqueous portion is extracted with more benzene. The combined benzene extracts are washed with aqueous sodium carbonate and then with water. Evaporation of the solvent and recrystallization of the residue from hexane gives (4-hexadecylaminophenyl)acetonitrile.

reactant | 2-(4-hexadecylaminophenyl)acetamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)N | C24H42N2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (4-hexadecylaminophenyl)acetonitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC#N | C24H40N2
